US09334269B2
To a vial charged with 6-bromo-2-(4-chloro-1,3,5-triazin-2-yl)-1,2,3,4-tetrahydroisoquinoline (163 mg, 499 μmol) and 3-amino-2-methylbenzamide (75 mg, 499 μmol) was added N-ethyl-N-isopropylpropan-2-amine (174 μl, 999 μmol) and propan-2-ol (1665 μl, 499 μmol). The vial was sealed and heated to 95° C. overnight. The product was purified by reverse phase liquid chromatography using TFA as a modifier. Fractions containing the product were combined and neutralized with saturated NaHCO3 (35 mL). The product was extracted with DCM (3×30 mL). The organics were separated, dried over Na2SO4, and filtered to afford 3-(4-(6-bromo-3,4-dihydroisoquinolin-2(1H)-yl)-1,3,5-triazin-2-ylamino)-2-methylbenzamide (55 mg, 25%) as a white solid upon drying.

reactant | 6-bromo-2-(4-chloro-1,3,5-triazin-2-yl)-1,2,3,4-tetrahydroisoquinoline | 499 μmol, 163 mg | BrC=1C=C2CCN(CC2=CC1)C1=NC=NC(=N1)Cl | C12H10BrClN4
reactant | 3-amino-2-methylbenzamide | 499 μmol, 75 mg | NC=1C(=C(C(=O)N)C=CC1)C | C8H10N2O
reactant | N-ethyl-N-isopropylpropan-2-amine | 999 μmol, 174 μl | C(C)N(C(C)C)C(C)C | C8H19N
reactant | propan-2-ol | 499 μmol, 1665 μl | CC(C)O | C3H8O
product | 3-(4-(6-bromo-3,4-dihydroisoquinolin-2(1H)-yl)-1,3,5-triazin-2-ylamino)-2-methylbenzamide | 55 mg, 25% | BrC=1C=C2CCN(CC2=CC1)C1=NC(=NC=N1)NC=1C(=C(C(=O)N)C=CC1)C | C20H19BrN6O
